US08258130B2
A mixture of 3-methyl-pyrrolo[3,2-b]pyridin-1-yl amine (839 mg, <5.71 mmol), 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid (1.32 g, 6.13 mmol), HATU (2.6 g, 6.85 mmol), DIPEA (2.21 g 17.1 mmol) in DMF (17 mL) is stirred at 150° C. for 1 h. The reaction is quenched with water and ether. The water layer is concentrated in vacuo. The residue is chromatographed through silica gel eluting with a mixture of DCM, MeOH and triethylamine (9.5:0.5:0.05) to afford 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid (3-methyl-pyrrolo[3,2-b]pyridin-1-yl)-amide (134 mg). MS: 345 345 (M+H); 1H NMR (300 MHz, CD3OD): δ 9.22 (s, 1H), 8.79 (d, 1H), 8.64 (d, 1H), 8.40(d, 1H), 8.05 (t, 1H), 7.87 (d, 1H), 7.60 (t, 1H), 7.49 (s, 1H) 7.30 (dd, 1H), 2.87 (s, 3H), 2.42 (s, 3H).

reactant | 3-methyl-pyrrolo[3,2-b]pyridin-1-yl amine | <5.71 mmol, 839 mg | CC1=CN(C=2C1=NC=CC2)N | C8H9N3
reactant | 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid | 6.13 mmol, 1.32 g | CC1=NC(=NC=C1C(=O)O)C1=NC=CC=C1 | C11H9N3O2
reactant | HATU | 6.85 mmol, 2.6 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 17.1 mmol, 2.21 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 17 mL | CN(C)C=O | C3H7NO
product | 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid (3-methyl-pyrrolo[3,2-b]pyridin-1-yl)-amide | 134 mg | CC1=CN(C=2C1=NC=CC2)NC(=O)C=2C(=NC(=NC2)C2=NC=CC=C2)C | C19H16N6O
